US09029545B2
N-[2-Bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-yl]benzenesulfonamide
To a stirred solution of 2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-amine (Description 49) (1 g, 2.51 mmol) in THF (10 mL) and DMF (5 mL) was added sodium tert-butoxide (0.603 g, 6.28 mmol) and benzenesulfonyl chloride (0.648 mL, 5.02 mmol). The reaction mixture stirred at RT under nitrogen for ca. 30 min. The reaction mixture was quenched with saturated ammonium chloride solution (ca. 30 mL) and extracted with DCM (25 mL×4). The combined organics were dried and concentrated. The residue was purified via normal phase chromatography eluted with a gradient of 0-50% ethyl acetate in DCM, to afford the title compound (1.12 g). LCMS (A) m/z: 539 [M+1]+, Rt 1.45 min (acidic).

reactant | 2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-amine | 2.51 mmol, 1 g | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)Br | C14H10Br2N2S
reactant | sodium tert-butoxide | 6.28 mmol, 0.603 g | CC(C)([O-])C.[Na+]
reactant | benzenesulfonyl chloride | 5.02 mmol, 0.648 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[2-Bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-yl]benzenesulfonamide | 1.12 g | BrC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC=CC=C2)C)S1)C1=CC(=CC=C1)Br | C20H14Br2N2O2S2
